US08222414B2
2,2-Dimethyl-propionic acid {(R)-2-[5-(morpholin-4-yl)methyl-7-nitro-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl}methyl ester
2,2-Dimethyl-propionic acid [(R)-2-(5-chloromethyl-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]methyl ester prepared in Preparation 41 and morpholine were reacted according to the same procedure as Preparation 92 except that DMF was used as the solvent instead of DMSO to give the title compound.

reactant | 2,2-Dimethyl-propionic acid [(R)-2-(5-chloromethyl-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]methyl ester | ClCC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C=1SC[C@H](N1)COC(C(C)(C)C)=O | C18H20ClN3O4S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | 2,2-Dimethyl-propionic acid {(R)-2-[5-(morpholin-4-yl)methyl-7-nitro-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl}methyl ester | N1(CCOCC1)CC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C=1SC[C@H](N1)COC(C(C)(C)C)=O | C22H28N4O5S
